US08168794B2
To a solution of 2-azido-4-(3-nitropyridin-4-yl)cyclohex-3-enol (1.0 equiv.) in Pyridine and NH4OH (8:1, 0.23 M) was added trimethylphosphine (3.0 equiv.) at room temperature. The mixture was stirred at room temperature for 3 hours. Solvents were removed. To the residue was added ethanol. Then ethanol was removed in vacuo to ensure removal of the ammonia totally. The residue was dissolved in 1,4-Dioxane and sat. aq. sodium bicarbonate, and then Boc2O (1.0 eq) in THF were added to the mixture. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, and washed with sat NaCl. The organic was dried with MgSO4, filtered and concentrated. The residue was purified by column (5% methanol in 1:1 ethyl acetate and hexanes) to give tert-butyl 6-hydroxy-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate (82%). LC/MS (m/z): MH+=336.0, Rt=0.71

reactant | 2-azido-4-(3-nitropyridin-4-yl)cyclohex-3-enol | 1.0 equiv. | N(=[N+]=[N-])C1C(CCC(=C1)C1=C(C=NC=C1)[N+](=O)[O-])O | C11H11N5O3
reactant | trimethylphosphine | 3.0 equiv. | CP(C)C | C3H9P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Boc2O | 1.0 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Pyridine | N1=CC=CC=C1 | C5H5N
solvent | NH4OH | 0.23 M | [NH4+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 6-hydroxy-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate | 82% | OC1CCC(=CC1NC(OC(C)(C)C)=O)C1=C(C=NC=C1)[N+](=O)[O-] | C16H21N3O5
